US07420055B2
Synthesis of 4-(2-methyl-oxazol-5-yl)-benzenesulfonyl Chloride
2-Methyl-5-phenyl-oxazole (1.6 g, 10 mmol), prepared according to the literature procedure (Varma, R. S.; Kumar, D. J. Heterocyclic Chem., 1998, 35,1533), was dissolved in chlorosulfonic acid (10 mL) and stirred at room temperature for 16 h. The reaction mixture was added to crushed ice (50 g) and the product was extracted with ether (3×50 mL). The combined organic extract was dried over anhydrous Na2SO4 and ether was evaporated. The product was purified by flash chromatography (silica-gel, 5-20% ethylacetate/hexane mobile phase) to yield 0.82 g of the desired title compound as tan solid. MS: m/z 258.0 (M++1).

reactant | 2-Methyl-5-phenyl-oxazole | 10 mmol, 1.6 g | CC=1OC(=CN1)C1=CC=CC=C1 | C10H9NO
reactant | chlorosulfonic acid | 10 mL | ClS(=O)(=O)O | ClHO3S
product | 4-(2-methyl-oxazol-5-yl)-benzenesulfonyl Chloride | 0.82 g | CC=1OC(=CN1)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H8ClNO3S
